* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 8.2k
R5 N003 0 27
V1 0 N001 15
R4 N002 N004 1.5
R1 N004 N003 4.7k
R3 N004 0 68

.end