* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 27
R5 N003 0 3.9
V1 0 N001 15
R4 N002 N004 6.8
R1 N004 N003 4.7k
R3 N004 0 820k

.end