* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 3.9k
R5 N003 0 22
V1 N001 0 15
R4 N002 N004 1.8
R1 N004 N003 4.7k
R3 N004 0 33

.end